US07135480B2
3-Cyano-1-(4-fluoro-benzoyl)-pyrrolo[1,2-a]quinoline
The title compound was prepared from 1-(4-fluoro-phenacyl)-quinolinium bromide (117 mg, 0.338 mmol), tetrapyridinecobalt(II) dichromate (217 mg, 0.356 mmol), sodium bicarbonate (75.7 mg, 0.901 mmol), acrylonitrile (110 μL, 1.67 mmol), and N,N-dimethylformamide (2.0 mL), similar to Example 1b, and yielded 32.6 mg (30%) as a yellow solid. 1H NMR (CDCl3): 8.11 (m, 2H), 8.04 (dd, J=8.52, 0.55 Hz, 1H), 7.86 (dd, J=7.69, 1.65 Hz, 1H), 7.74 (d, J=9.34 Hz, 1H), 7.68 (d, J=9.07 Hz, 1H), 7.62 (ddd, J=8.31, 7.07, 1.72 Hz, 1H), 7.54 (td, J=7.48, 1.19 Hz, 1H), 7.41 (s, 1H), 7.26 (m, 2H).

reactant | 1-(4-fluoro-phenacyl)-quinolinium bromide | 0.338 mmol, 117 mg | [Br-].FC1=CC=C(C(C[N+]2=CC=CC3=CC=CC=C23)=O)C=C1
reactant | dichromate | 0.356 mmol, 217 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-]
reactant | sodium bicarbonate | 0.901 mmol, 75.7 mg | C([O-])(O)=O.[Na+]
reactant | acrylonitrile | 1.67 mmol, 110 μL | C(C=C)#N | C3H3N
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 3-Cyano-1-(4-fluoro-benzoyl)-pyrrolo[1,2-a]quinoline | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)F)=O | C20H11FN2O
